US07655665B2
(3): Synthesis of N1-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine
To a stirred solution of 4.2 g (0.03 mol) of potassium carbonate and 10 ml (0.15 mol) of ethylenediamine in a 50 ml of flask placed in an ice bath, 4.8 g (0.03 mol) of 2-chloro-5-(chloromethyl)pyridine dissolved in 15 ml of acetonitrile was added dropwise and slowly for nearly 20 min. After addition, the ice bath was removed and then the mixture was stirred for 8 hours at room temperature. After the reaction was stopped, a large amount of water was added to dissolve potassium carbonate and ethylenediamine, and the mixture was extracted with dichlormethane. The lower organic phase was collected, dried, and evaporated to dryness (It was better to remove all of the ethylenediamine in the solvent since its presence would influence the following step). The obtained product was yellow oily liquid in 68% yield.

reactant | potassium carbonate | 0.03 mol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylenediamine | 0.15 mol, 10 ml | C(CN)N | C2H8N2
reactant | 2-chloro-5-(chloromethyl)pyridine | 0.03 mol, 4.8 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N1-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine | 68% yield | ClC1=CC=C(C=N1)CNCCN | C8H12ClN3
